US04180394
A solution of thiophenol (2.9 ml, 0.0285 mole) and triethylamine (3.97 ml) in 50 ml. of ether was added to a solution of ethyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate (9.9 g, 0.03 mole) in 150 ml. of ether at 0° C. After three hours, the solution was filtered and the cooled (0° C.) filtrate was treated with a solution of isopropylamine (4.85 ml, 0.057 mole) in 50 ml. of ether. After stirring overnight, the solution was filtered, washed with 1.5% aqueous hydrochloric acid, 1.5% ammonium hydroxide and saturated aqueous sodium chloride. Concentration in vacuo afforded an oil which was chromatographed on silica gel eluting with ethyl acetate-cyclohexane (1:1) to yield ethyl N-trifluoroacetyl-N-(phenylthio(isopropylamino)phosphonomethyl)glycinate (1.75 g) as a white solid, m.p. 102°-103° C.

reactant | thiophenol | 0.0285 mole, 2.9 ml | C1(=CC=CC=C1)S | C6H6S
reactant | triethylamine | 3.97 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate | 0.03 mole, 9.9 g | FC(C(=O)N(CC(=O)OCC)CP(=O)(OCl)OCl)(F)F | C7H9Cl2F3NO6P
reactant | isopropylamine | 0.057 mole, 4.85 ml | C(C)(C)N | C3H9N
solvent | ether | CCOCC | C4H10O
product | ethyl N-trifluoroacetyl-N-(phenylthio(isopropylamino)phosphonomethyl)glycinate | 1.75 g | FC(C(=O)N(CC(=O)OCC)C(P(=O)(ONC(C)C)O)SC1=CC=CC=C1)(F)F | C16H22F3N2O6PS
